US06777446B2
2,5-dimethyl-aniline (2.4 g, 20 mmol) and 2-nitrobenzenesulfonyl chloride (4.4 g, 20 mmol) are dissolved in CH2Cl2 and treated with pyridine (1.8 mL, 22 mmol). The reaction mixture is stirred at room temperature until TLC shows no starting material. The reaction mixture is quenched with dilute HCl, and the organic layer washed with saturated brine. Drying over MgSO4, filtration, and concentration provides a solid that is recrystallized from hot EtOAc/hexanes to provide 2-nitro-N-(2,5-dimethyl-phenyl)-benzenesulfonamide.

reactant | 2,5-dimethyl-aniline | 20 mmol, 2.4 g | CC1=C(N)C=C(C=C1)C | C8H11N
reactant | 2-nitrobenzenesulfonyl chloride | 20 mmol, 4.4 g | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | pyridine | 22 mmol, 1.8 mL | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 2-nitro-N-(2,5-dimethyl-phenyl)-benzenesulfonamide | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)NC1=C(C=CC(=C1)C)C | C14H14N2O4S
